US09388189B2
b) 4-Hydroxy-N-methylbenzenesulfonamide
4-Methoxy-N-methylbenzenesulfonamide (1.02 g, 4.82 mmol) was dissolved in dichloromethane (50 ml). A solution of boron tribromide (1M in dichloromethane, 14.5 mL, 14.5 mmol) was added dropwise and the reaction was stirred at room temperature overnight. The mixture was diluted with ethyl acetate and washed with a solution of 4% sodium bicarbonate, water, brine and dried over sodium sulphate, filtered and evaporated under reduced pressure. The product was purified by reverse phase using SP1® Purification System to give 650 mg (68% yield) of the title compound. Purity 95%.

reactant | 4-Methoxy-N-methylbenzenesulfonamide | 4.82 mmol, 1.02 g | COC1=CC=C(C=C1)S(=O)(=O)NC | C8H11NO3S
reactant | boron tribromide | 14.5 mmol, 1M, 14.5 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Hydroxy-N-methylbenzenesulfonamide | 650 mg, 68% yield | OC1=CC=C(C=C1)S(=O)(=O)NC | C7H9NO3S
